US04130579
In a 2-liter flask, equipped with a magnetic stirrer, a reflux condenser capped with a nitrogen bubbler, a dropping funnel, and a syringe adapter, was placed 900 ml of anhydrous tetrahydrofuran (THF) and 42 ml (30.32 g, 0.30 M) of diisopropylamine (via syringe). The stirred mixture was cooled in a dry ice-acetone bath, and then 138.6 ml of 2.17 N (0.30 M) n-butyllithium in hexane was added via syringe. After the mixture had stirred for 1 hr, a solution of 20.52 g (0.297 M) of freshly distilled isobutyronitrile in 60 ml of anhydrous THF was added in 20 minutes. Following an additional 1 hr and 7 min. of stirring at dry ice temperature, a solution of 39.57 g (0.150 M) of α,α'-dibromo-p-xylene in 450 ml of anhydrous THF was added in 1 hr 23 min. The mixture was stirred at dry ice temperature for 2 hr 15 min. and then overnight as the cooling bath warmed to room temperature. Stirring was continued for 4 days at room temperature. The suspended white solid was removed by filtration, rinsed on the filter with THF and dried: wt = 13.74 g, mp = 193°-195°. The filtrate was distilled on the water pump to remove the solvent, and the residue, a mixture of brown oil and solid, was stirred with 100 ml of methanol which dissolved the brown oil. Filtration of the mixture, rinsing of the solid on the filter with methanol, and drying of the solid under nitrogen gave an additional 15.7 g of crude 1,4-bis(2-methyl-2-cyanopropyl)benzene melting at 192°-194.5° (total yield = 82%). Dissolving of this material in refluxing acetone (28.5 ml/g), filtration of the hot solution through a coarse sintered glass funnel to remove some insoluble material, and cooling of the filtrate at 8°-10° gave the product as colorless needles melting at 194°-195°.

reactant | diisopropylamine | 0.30 M, 42 ml, 30.32 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.17 N | C(CCC)[Li]
reactant | isobutyronitrile | C(C(C)C)#N | C4H7N
reactant | dry ice | C(=O)=O | CO2
reactant | α,α'-dibromo-p-xylene | 0.150 M, 39.57 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | THF | 60 ml | O1CCCC1 | C4H8O
reactant | THF | 450 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1,4-bis(2-methyl-2-cyanopropyl)benzene | 15.7 g, yield = 82% | CC(CC1=CC=C(C=C1)CC(C)(C)C#N)(C)C#N | C16H20N2
